US06664260B2
A dried round bottom flask was charged with a stir bar, sodium hydride (8.15 g, 203.9 mmol) and anhydrous 2-methoxylethyl ether (diglyme, 100 mL) while under a nitrogen atmosphere and at ambient temperature. Phenol (20.7 g, 220.2 mmol) was added in several portions as a solid and the resulting solution stirred under a nitrogen atmosphere until gas evolution ceased. 4-chloro-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline (46.6 g, 163.1 mmol) was added neat and the solution was heated to 110° C. After 15.5 hours, a preformed solution of sodium phenoxide (phenol 5 g, 53.1 mmol and sodium hydride 1.91 g, 47.8 mmol) in diglyme (20 mL) was added to the reaction solution and heating was increased to 165° C. The reaction was judged complete after 1 hour at 165° C. After cooling to less than 70° C., the volatiles were removed under reduced pressure and the resulting brown solid was partitioned between chloroform and saturated aqueous sodium carbonate. The aqueous fraction was extracted with chloroform; the combined organic fractions were dried with anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure to provide a brown solid. The solid was recrystallized from acetonitrile with a small amount of dimethyl formamide to provide 25 g of 4-phenoxy-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline as a crystalline solid.

reactant | sodium hydride | 203.9 mmol, 8.15 g | [H-].[Na+]
reactant | Phenol | 220.2 mmol, 20.7 g | C1(=CC=CC=C1)O | C6H6O
reactant | 4-chloro-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline | 163.1 mmol, 46.6 g | ClC1=NC=2C=CC=CC2C2=C1N=CN2CCOCC#C | C15H12ClN3O
reactant | sodium phenoxide | 53.1 mmol, 5 g | [O-]C1=CC=CC=C1.[Na+]
solvent | diglyme | 20 mL | COCCOCCOC | C6H14O3
solvent | 2-methoxylethyl ether | 100 mL | O(C)CCOCCOC | C6H14O3
product | 4-phenoxy-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline | 25 g | O(C1=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1N=CN2CCOCC#C | C21H17N3O2
